US05863946
Step 2: 1-{2-[(2,6-dichloro-3-methylphenyl)amino]phenyl}ethanol.
The desired compound is prepared by reaction of 2-[(2,6-dichloro-3-methylphenyl)amino]benzaldehyde, prepared as in step 1, with methylmagnesium bromide.

reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]benzaldehyde | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=O)C=CC=C1 | C14H11Cl2NO
reactant | methylmagnesium bromide | C[Mg]Br
product | 1-{2-[(2,6-dichloro-3-methylphenyl)amino]phenyl}ethanol | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)O | C15H15Cl2NO
